US06498172B1
3-{3-[(Biphenyl-4-ylmethyl-methanesulfonyl-amino)-methyl]-phenyl}-propionic acid methyl ester
The title compound of Step A was prepared following the method described in Step B of Example 1 from 3-(3-{[(biphenyl-4-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester, prepared in Step A of Example 12m, and methanesulfonyl chloride using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 7.56 (m, 4H), 7.44-7.23 (m, 6H), 7.14 (m, 3H), 4.35 (s, 2H), 4.33 (s, 2H), 3.64 (s, 3H), 2.92 (t, 2H), 2.78 (s, 3H), 2.59 (t, 2H).

reactant | 3-(3-{[(biphenyl-4-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C24H25NO2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-{3-[(Biphenyl-4-ylmethyl-methanesulfonyl-amino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(S(=O)(=O)C)CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C25H27NO4S
